US07169761B2
Aluminum chloride (0.24 g) was added to a solution of (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(azulen-2-ylmethyl)phenyl]-D-glucitol (0.20 g) in methylene chloride (20 ml) at 0° C. and the mixture was stirred for 30 minutes. Next, acetic anhydride (0.17 ml) was added dropwise to the reaction mixture at 0° C. and the mixture was refluxed with stirring for 30 minutes and further 16 hours. The reaction mixture was added to 10% aqueous solution of hydrochloric acid under cooling with ice and was extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium hydrogencarbonate and saturated brine in that order and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (2S,3S,4R,5R,6R)-2-[3-[(1-acetylazulen-2-yl)methyl]phenyl]-6-[(acetyloxy)methyl]tetrahydro-2H-pyran-3,4,5-triyl triacetate (0.09 g).

reactant | Aluminum chloride | 0.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(azulen-2-ylmethyl)phenyl]-D-glucitol | 0.20 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=CC=C1)CC1=CC2=CC=CC=CC2=C1 | C31H32O9
reactant | acetic anhydride | 0.17 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (2S,3S,4R,5R,6R)-2-[3-[(1-acetylazulen-2-yl)methyl]phenyl]-6-[(acetyloxy)methyl]tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.09 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=CC=C1)CC1=C(C2=CC=CC=CC2=C1)C(C)=O | C33H34O10
